US05037845
(i) N-Methyl-4-[2-[2-(phenylthio)ethylidene]hydrazino]benzenemethanesulphonamide
A solution of (phenylthio)acetaldehyde (6.05 g) in absolute ethanol (180 ml) was added over 10 min to a solution of 4-hydrazino-N-methylbenzenemethanesulphonamide hydrochloride (10 g) in water (180 ml) with cooling. After addition of the aldehyde was complete, the mixture was stirred at 5° for a period of 14 h. The precipitated solid was filtered off, washed with water (200 ml), hexane (200 ml) and dried in vacuo to give the title compound (10.95 g), m.p. 110°-112°. T.l.c. (B) Rf 0.5 (KMnO4)

reactant | (phenylthio)acetaldehyde | 6.05 g | C1(=CC=CC=C1)SCC=O | C8H8OS
reactant | 4-hydrazino-N-methylbenzenemethanesulphonamide hydrochloride | 10 g | Cl.N(N)C1=CC=C(C=C1)CS(=O)(=O)NC
solvent | ethanol | 180 ml | C(C)O | C2H6O
solvent | water | 180 ml | O | H2O
product | N-Methyl-4-[2-[2-(phenylthio)ethylidene]hydrazino]benzenemethanesulphonamide | 10.95 g | CNS(=O)(=O)CC1=CC=C(C=C1)NN=CCSC1=CC=CC=C1 | C16H19N3O2S2
